US07592365B2
A suspension of 0.26 g (1.139 mmol) of 2-amino-4-(4-nitrophenyl)-1H-pyrrole-3-carbonitrile in 5 cm3 of concentrated sulphuric acid is heated at a temperature in the region of 80° C. for 1 hour. After having cooled the reaction mixture to a temperature in the region of 20° C., it is poured over crushed ice and then a 5N aqueous sodium hydroxide solution is slowly added to a basic pH in the region of 10. The reaction mixture is extracted with 7 times 10 cm3 of a dichloromethane/MeOH mixture (98/2 by volume). All the organic phases are combined, dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) to give 0.19 g of 2-amino-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide, in the form of a red-brown solid; EI: m/z=246 (M+) base peak, m/z=229 (M−NH3+).

reactant | 2-amino-4-(4-nitrophenyl)-1H-pyrrole-3-carbonitrile | 1.139 mmol, 0.26 g | NC=1NC=C(C1C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C11H8N4O2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | sulphuric acid | 5 cm3 | S(O)(O)(=O)=O | H2O4S
product | 2-amino-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide | 0.19 g | NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C11H10N4O3
